US08232296B2
1-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
N-Methylpyrazole (6.0 kg, 1 mol eq, limiting reagent) was charged, followed by anhydrous tetrahydrofuran (84 L, 14 rel vol) and the reaction mixture was cooled to −10° C. n-Hexyllithium (2.3 M solution in hexanes, 23.6 kg, 1.05 mol eq) was charged keeping the temperature below −5° C., followed by a line rinse of iso-hexane (1.2 L, 0.2 rel vol). The reaction mixture was stirred at below −5° C. 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (14.9 kg, 1.1 mol eq) was diluted with anhydrous tetrahydrofuran (6.0 L, 1 rel vol) and was charged to the reaction keeping the temperature below 0° C. A line rinse with anhydrous tetrahydrofuran (3.0 L, 0.5 rel vol) was charged and the reaction mixture was stirred for around 30 minutes. The reaction was warmed to 25° C. A solution of glacial acetic acid (6.6 kg, 1.5 mol eq) in water (36 L, 6 rel vol) was charged to the reaction over about 30 minutes. The reaction mixture was stirred for around 30 minutes. The phases were separated and the organic layer retained. Change of solvent to acetonitrile by distillation afforded the title compound as a solution in acetonitrile. The solution yield of the title compound was determined by GC assay; 1H NMR (d6-DMSO): δ 1.31 (s, 12H), 3.98 (s, 3H), 6.62 (d, 1H, J=1.9 Hz), 7.45 (d, 1H, J=2.1 Hz) ppm.

reactant | N-Methylpyrazole | CN1N=CC=C1 | C4H6N2
reactant | n-Hexyllithium | 1.05 mol, 2.3 M, 23.6 kg | C(CCCCC)[Li]
reactant | 2-Isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.1 mol, 14.9 kg | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | acetic acid | 1.5 mol, 6.6 kg | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 6.0 L | O1CCCC1 | C4H8O
solvent | water | 36 L | O | H2O
solvent | tetrahydrofuran | 84 L | O1CCCC1 | C4H8O
product | 1-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
